US07176216B2
(7-Bromopyrazolo[1,5-a]pyridin-2-yl)methyl methyl ether
To a solution of 2-(methoxymethyl)pyrazolo[1,5-a]pyridine (3.5 g) dissolved in tetrahydrofuran (350 mL) was added n-butyllithium (2.66M hexane solution; 10.5 mL) dropwise at −78° C. under a nitrogen stream, and the reaction mixture was stirred for 30 minutes. 1,2-Dibromoethane (2.05 mL) was added dropwise to the obtained reaction mixture and stirring was continued for 30 minutes. After adding saturated aqueous ammonium chloride to the reaction mixture, the temperature was raised to room temperature, water was added and extraction was performed with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography and the title compound (2.75 g) was obtained as a light yellow oil from the n-hexane:ethyl acetate (10:1) fraction.

reactant | 2-(methoxymethyl)pyrazolo[1,5-a]pyridine | 3.5 g | COCC1=NN2C(C=CC=C2)=C1 | C9H10N2O
reactant | n-butyllithium | 2.66M, 10.5 mL | C(CCC)[Li]
reactant | 1,2-Dibromoethane | 2.05 mL | BrCCBr | C2H4Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (7-Bromopyrazolo[1,5-a]pyridin-2-yl)methyl methyl ether | 2.75 g | COCC1=NN2C(C=CC=C2Br)=C1 | C9H9BrN2O
